US04046894
Sodium secobarbital (25.5 g.) was dissolved in 250 ml of hot dimethylformamide. The solution was vigorously stirred and allowed to cool to room temperature to provide a fine suspension. To the suspension was added chloromethyl benzyl ether (16.5 g.) over a period of 10 minutes. The reaction mixture was stirred overnight and poured into 500 ml of ice water; the mixture was stirred for 1 hour and was extracted into methylene chloride. The methylene chloride solution was dried and the methylene chloride evaporated under reduced pressure to yield an oil. This crude oil was adsorbed on 60-200 mesh silica gel; elution with a solvent mixture containing 1 part of ethyl acetate and 20 parts of benzene (by volume) provided pure 1,3-dibenzyloxymethyl-5-allyl-5-(2-pentyl) barbituric acid.

reactant | Sodium secobarbital | 25.5 g | CCCC(C)C1(C(=O)NC(=O)[N-]C1=O)CC=C.[Na+]
reactant | chloromethyl benzyl ether | 16.5 g | C(C1=CC=CC=C1)OCCl | C8H9ClO
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | 1,3-dibenzyloxymethyl-5-allyl-5-(2-pentyl) barbituric acid | C(C1=CC=CC=C1)OCN1C(=O)N(C(=O)C(C1=O)(C(C)CCC)CC=C)COCC1=CC=CC=C1 | C28H34N2O5
